US07262212B2
A mixture of N-methyl-(4-trifluoromethoxyphenyl)amine (4.83 g, 24.24 mmol), 2-(2-bromoethoxy)-tetrahydropyran (6.1 g, 29.03 mmol), and potassium carbonate (3.84 g, 27.76 mmol) in DMF (20 ml) was stirred at 100° C. for 5 hours. The reaction mixture was allowed to return to room temperature, poured into water, and extracted with ethyl acetate twice. The extract was washed with water twice and brine, and dried over magnesium sulfate. After filtration, the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (methylene chloride/ethyl acetate=20/1) to afford 2-[N-methyl-(4-trifluoromethoxyphenyl)-amino]ethanol (3.1 g, yield 53%) as a pale yellow oil.

reactant | N-methyl-(4-trifluoromethoxyphenyl)amine | 24.24 mmol, 4.83 g | CNC1=CC=C(C=C1)OC(F)(F)F | C8H8F3NO
reactant | 2-(2-bromoethoxy)-tetrahydropyran | 29.03 mmol, 6.1 g | BrCCOC1OCCCC1 | C7H13BrO2
reactant | potassium carbonate | 27.76 mmol, 3.84 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 2-[N-methyl-(4-trifluoromethoxyphenyl)-amino]ethanol | 3.1 g, yield 53% | CN(CCO)C1=CC=C(C=C1)OC(F)(F)F | C10H12F3NO2
